### PR TITLE
[Merged by Bors] - feat: natCast versions of some Rat.intCast lemmas

### PR DESCRIPTION
**Pull request by llllvvuu**
also some golf

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Rat/Lemmas.lean [hunk 1]
```diff
@@ -231,12 +218,21 @@ theorem intCast_div (a b : ℤ) (h : b ∣ a) : ((a / b : ℤ) : ℚ) = a / b :=
...
 
-theorem natCast_div (a b : ℕ) (h : b ∣ a) : ((a / b : ℕ) : ℚ) = a / b := by
-  rcases h with ⟨c, rfl⟩
-  simp only [mul_comm b, Nat.mul_div_assoc c (dvd_refl b), Nat.cast_mul, mul_div_assoc,
-    natCast_div_self]
+theorem natCast_div (a b : ℕ) (h : b ∣ a) : ((a / b : ℕ) : ℚ) = a / b :=
+  intCast_div a b (Int.ofNat_dvd.mpr h)
 #align rat.coe_nat_div Rat.natCast_div
 
+theorem den_div_cast_eq_one_iff (m n : ℤ) (hn : n ≠ 0) : ((m : ℚ) / n).den = 1 ↔ n ∣ m := by
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/Lemmas.lean:225]:
```suggestion
theorem den_div_intCast_eq_one_iff (m n : ℤ) (hn : n ≠ 0) : ((m : ℚ) / n).den = 1 ↔ n ∣ m := by
```

**Comment by loefflerd** [comment]
Looks good, thanks!

maintainer merge

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors merge
